US04211872
A mixture containing 0.15 g. of 3-[4-(diethylamino)benzoyl]-2-pyrazinecarboxylic acid, 0.18 g. of 4,4'-dioctyldiphenylamine and 3 ml. of acetic anhydride was gently heated for 5 hours and then allowed to stand overnight. The product, 7-[4-(diethylamino)phenyl]-7-[bis(4-octylphenyl)amino]furo[3,4-b]pyrazine-5(7H)-one was isolated by column chromatography followed by crystallization from hexane to give a peach solid, m.p. 180°-181° C. A toluene solution of this product contacted with acidic clay or phenolic resin developed a red image.

reactant | 3-[4-(diethylamino)benzoyl]-2-pyrazinecarboxylic acid | C(C)N(C1=CC=C(C(=O)C=2C(=NC=CN2)C(=O)O)C=C1)CC | C16H17N3O3
reactant | 4,4'-dioctyldiphenylamine | CCCCCCCCC1=CC=C(C=C1)NC2=CC=C(C=C2)CCCCCCCC | C28H43N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 7-[4-(diethylamino)phenyl]-7-[bis(4-octylphenyl)amino]furo[3,4-b]pyrazine-5(7H)-one | C(C)N(C1=CC=C(C=C1)C1(OC(C=2C1=NC=CN2)=O)N(C2=CC=C(C=C2)CCCCCCCC)C2=CC=C(C=C2)CCCCCCCC)CC | C44H58N4O2
